US08022192B2
To solution of 4-benzyl-1,2-dihydro-1-formyl-5-isopropyl-3H-pyrazol-3-one (1.07 g) in acetonitrile (20 mL) were added potassium carbonate (0.905 g) and 2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl bromide (2.65 g) under stirring at room temperature. In addition, the mixture was heated to 50° C. and stirred for 1 hour. After the reaction completed, the insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=10/1) to give 4-benzyl-1-formyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole (1.49 g).

reactant | 4-benzyl-1,2-dihydro-1-formyl-5-isopropyl-3H-pyrazol-3-one | 1.07 g | C(C1=CC=CC=C1)C=1C(NN(C1C(C)C)C=O)=O | C14H16N2O2
reactant | potassium carbonate | 0.905 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl bromide | 2.65 g | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-benzyl-1-formyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole | 1.49 g | C(C1=CC=CC=C1)C=1C(=NN(C1C(C)C)C=O)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C40H58N2O11
